// Generated for: spectre
// Generated on: Sep 11 12:45:38 2024
// Design library name: Buck_Simple
// Design cell name: tb_Efficiency
// Design view name: schematic
simulator lang=spectre
global 0
parameters ILOAD=1 w_M45_per_finger l_M45 nf_M45 w_M46_per_finger l_M46 nf_M46 w_M47_per_finger l_M47 nf_M47 w_M48_per_finger l_M48 nf_M48 w_M41_per_finger l_M41 nf_M41 w_M42_per_finger l_M42 nf_M42 w_M43_per_finger l_M43 nf_M43 w_M44_per_finger l_M44 nf_M44 w_M31_per_finger l_M31 nf_M31 w_M33_per_finger l_M33 nf_M33 w_M37_per_finger l_M37 nf_M37 w_M38_per_finger l_M38 nf_M38 w_M32_per_finger l_M32 nf_M32 w_M34_per_finger l_M34 nf_M34 w_M35_per_finger l_M35 nf_M35 w_M36_per_finger l_M36 nf_M36 w_M2_per_finger l_M2 nf_M2 w_M1_per_finger l_M1 nf_M1
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=pre_simu
include "/data/PDK/pdk_installed/tsmc180bcd_g2/pdk/pdk_1p6m/tsmc18/../models/spectre/c018bcd_gen2_v1d6_usage.scs" section=tt_lib
// Library name: Buck_Simple
// Cell name: driver_s2
// View name: schematic
subckt driver_s2 IN OUT VDD VSS
    M45 (OUT net028 VDD VDD) pch_5_mac l=l_M45 w=w_M45_per_finger*1 multi=nf_M45 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M45_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M45_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M45_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M45_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M45_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M45_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M45_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M45_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M45_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M45_per_finger) sa=1/(1 / ((4.8e-07 + l_M45/2) + (5.4e-07 + l_M45)*(1-1)/3.5 ) )-(0.5*l_M45) sb=1/(1 / ((4.8e-07 + l_M45/2) + (5.4e-07 + l_M45)*(1-1)/3.5 ) )-(0.5*l_M45) sca=0 scb=0 scc=0 mismatchflag=1
    M46 (net028 net026 VDD VDD) pch_5_mac l=l_M46 w=w_M46_per_finger*1 multi=nf_M46 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M46_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M46_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M46_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M46_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M46_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M46_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M46_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M46_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M46_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M46_per_finger) sa=1/(1 / ((4.8e-07 + l_M46/2) + (5.4e-07 + l_M46)*(1-1)/3.5 ) )-(0.5*l_M46) sb=1/(1 / ((4.8e-07 + l_M46/2) + (5.4e-07 + l_M46)*(1-1)/3.5 ) )-(0.5*l_M46) sca=0 scb=0 scc=0 mismatchflag=1
    M47 (net026 net024 VDD VDD) pch_5_mac l=l_M47 w=w_M47_per_finger*1 multi=nf_M47 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M47_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M47_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M47_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M47_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M47_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M47_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M47_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M47_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M47_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M47_per_finger) sa=1/(1 / ((4.8e-07 + l_M47/2) + (5.4e-07 + l_M47)*(1-1)/3.5 ) )-(0.5*l_M47) sb=1/(1 / ((4.8e-07 + l_M47/2) + (5.4e-07 + l_M47)*(1-1)/3.5 ) )-(0.5*l_M47) sca=0 scb=0 scc=0 mismatchflag=1
    M48 (net024 IN VDD VDD) pch_5_mac l=l_M48 w=w_M48_per_finger*1 multi=nf_M48 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M48_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M48_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M48_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M48_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M48_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M48_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M48_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M48_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M48_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M48_per_finger) sa=1/(1 / ((4.8e-07 + l_M48/2) + (5.4e-07 + l_M48)*(1-1)/3.5 ) )-(0.5*l_M48) sb=1/(1 / ((4.8e-07 + l_M48/2) + (5.4e-07 + l_M48)*(1-1)/3.5 ) )-(0.5*l_M48) sca=0 scb=0 scc=0 mismatchflag=1
    M41 (OUT net028 VSS VSS) nch_5_mac l=l_M41 w=w_M41_per_finger*1 multi=nf_M41 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M41_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M41_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M41_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M41_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M41_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M41_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M41_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M41_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M41_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M41_per_finger) sa=1/(1 / ((4.8e-07 + l_M41/2) + (5.4e-07 + l_M41)*(1-1)/3.5 ) )-(0.5*l_M41) sb=1/(1 / ((4.8e-07 + l_M41/2) + (5.4e-07 + l_M41)*(1-1)/3.5 ) )-(0.5*l_M41) sca=0 scb=0 scc=0 mismatchflag=1
    M42 (net028 net026 VSS VSS) nch_5_mac l=l_M42 w=w_M42_per_finger*1 multi=nf_M42 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M42_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M42_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M42_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M42_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M42_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M42_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M42_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M42_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M42_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M42_per_finger) sa=1/(1 / ((4.8e-07 + l_M42/2) + (5.4e-07 + l_M42)*(1-1)/3.5 ) )-(0.5*l_M42) sb=1/(1 / ((4.8e-07 + l_M42/2) + (5.4e-07 + l_M42)*(1-1)/3.5 ) )-(0.5*l_M42) sca=0 scb=0 scc=0 mismatchflag=1
    M43 (net026 net024 VSS VSS) nch_5_mac l=l_M43 w=w_M43_per_finger*1 multi=nf_M43 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M43_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M43_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M43_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M43_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M43_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M43_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M43_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M43_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M43_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M43_per_finger) sa=1/(1 / ((4.8e-07 + l_M43/2) + (5.4e-07 + l_M43)*(1-1)/3.5 ) )-(0.5*l_M43) sb=1/(1 / ((4.8e-07 + l_M43/2) + (5.4e-07 + l_M43)*(1-1)/3.5 ) )-(0.5*l_M43) sca=0 scb=0 scc=0 mismatchflag=1
    M44 (net024 IN VSS VSS) nch_5_mac l=l_M44 w=w_M44_per_finger*1 multi=nf_M44 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M44_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M44_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M44_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M44_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M44_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M44_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M44_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M44_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M44_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M44_per_finger) sa=1/(1 / ((4.8e-07 + l_M44/2) + (5.4e-07 + l_M44)*(1-1)/3.5 ) )-(0.5*l_M44) sb=1/(1 / ((4.8e-07 + l_M44/2) + (5.4e-07 + l_M44)*(1-1)/3.5 ) )-(0.5*l_M44) sca=0 scb=0 scc=0 mismatchflag=1
ends driver_s2
// End of subcircuit definition.
// Library name: Buck_Simple
// Cell name: driver_s1
// View name: schematic
subckt driver_s1 IN OUT VDD VSS
    M31 (OUT net16 VDD VDD) pch_5_mac l=l_M31 w=w_M31_per_finger*1 multi=nf_M31 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M31_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M31_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M31_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M31_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M31_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M31_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M31_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M31_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M31_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M31_per_finger) sa=1/(1 / ((4.8e-07 + l_M31/2) + (5.4e-07 + l_M31)*(1-1)/3.5 ) )-(0.5*l_M31) sb=1/(1 / ((4.8e-07 + l_M31/2) + (5.4e-07 + l_M31)*(1-1)/3.5 ) )-(0.5*l_M31) sca=0 scb=0 scc=0 mismatchflag=1
    M33 (net16 net14 VDD VDD) pch_5_mac l=l_M33 w=w_M33_per_finger*1 multi=nf_M33 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M33_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M33_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M33_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M33_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M33_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M33_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M33_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M33_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M33_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M33_per_finger) sa=1/(1 / ((4.8e-07 + l_M33/2) + (5.4e-07 + l_M33)*(1-1)/3.5 ) )-(0.5*l_M33) sb=1/(1 / ((4.8e-07 + l_M33/2) + (5.4e-07 + l_M33)*(1-1)/3.5 ) )-(0.5*l_M33) sca=0 scb=0 scc=0 mismatchflag=1
    M37 (net14 net13 VDD VDD) pch_5_mac l=l_M37 w=w_M37_per_finger*1 multi=nf_M37 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M37_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M37_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M37_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M37_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M37_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M37_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M37_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M37_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M37_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M37_per_finger) sa=1/(1 / ((4.8e-07 + l_M37/2) + (5.4e-07 + l_M37)*(1-1)/3.5 ) )-(0.5*l_M37) sb=1/(1 / ((4.8e-07 + l_M37/2) + (5.4e-07 + l_M37)*(1-1)/3.5 ) )-(0.5*l_M37) sca=0 scb=0 scc=0 mismatchflag=1
    M38 (net13 IN VDD VDD) pch_5_mac l=l_M38 w=w_M38_per_finger*1 multi=nf_M38 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M38_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M38_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M38_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M38_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M38_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M38_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M38_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M38_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M38_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M38_per_finger) sa=1/(1 / ((4.8e-07 + l_M38/2) + (5.4e-07 + l_M38)*(1-1)/3.5 ) )-(0.5*l_M38) sb=1/(1 / ((4.8e-07 + l_M38/2) + (5.4e-07 + l_M38)*(1-1)/3.5 ) )-(0.5*l_M38) sca=0 scb=0 scc=0 mismatchflag=1
    M32 (OUT net16 VSS VSS) nch_5_mac l=l_M32 w=w_M32_per_finger*1 multi=nf_M32 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M32_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M32_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M32_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M32_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M32_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M32_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M32_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M32_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M32_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M32_per_finger) sa=1/(1 / ((4.8e-07 + l_M32/2) + (5.4e-07 + l_M32)*(1-1)/3.5 ) )-(0.5*l_M32) sb=1/(1 / ((4.8e-07 + l_M32/2) + (5.4e-07 + l_M32)*(1-1)/3.5 ) )-(0.5*l_M32) sca=0 scb=0 scc=0 mismatchflag=1
    M34 (net16 net14 VSS VSS) nch_5_mac l=l_M34 w=w_M34_per_finger*1 multi=nf_M34 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M34_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M34_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M34_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M34_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M34_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M34_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M34_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M34_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M34_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M34_per_finger) sa=1/(1 / ((4.8e-07 + l_M34/2) + (5.4e-07 + l_M34)*(1-1)/3.5 ) )-(0.5*l_M34) sb=1/(1 / ((4.8e-07 + l_M34/2) + (5.4e-07 + l_M34)*(1-1)/3.5 ) )-(0.5*l_M34) sca=0 scb=0 scc=0 mismatchflag=1
    M35 (net14 net13 VSS VSS) nch_5_mac l=l_M35 w=w_M35_per_finger*1 multi=nf_M35 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M35_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M35_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M35_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M35_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M35_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M35_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M35_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M35_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M35_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M35_per_finger) sa=1/(1 / ((4.8e-07 + l_M35/2) + (5.4e-07 + l_M35)*(1-1)/3.5 ) )-(0.5*l_M35) sb=1/(1 / ((4.8e-07 + l_M35/2) + (5.4e-07 + l_M35)*(1-1)/3.5 ) )-(0.5*l_M35) sca=0 scb=0 scc=0 mismatchflag=1
    M36 (net13 IN VSS VSS) nch_5_mac l=l_M36 w=w_M36_per_finger*1 multi=nf_M36 nf=1 sigma=1 sd=540.0n ad=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*((1/2)*5.4e-07))*w_M36_per_finger as=((1-int(1/2)*2)*(4.8e-07+((1-1)*5.4e-07)/2+0)+(1+1-int((1+1)/2)*2)*(4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0))*w_M36_per_finger pd=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M36_per_finger)+(1+1-int((1+1)/2)*2)*(((1/2)*5.4e-07)*2+1*w_M36_per_finger) ps=(1-int(1/2)*2)*((4.8e-07+((1-1)*5.4e-07)/2+0)*2+(1+1)*w_M36_per_finger)+(1+1-int((1+1)/2)*2)*((4.8e-07+4.8e-07+(1/2-1)*5.4e-07+0+0)*2+(1+2)*w_M36_per_finger) nrd=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M36_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07/1/w_M36_per_finger) nrs=(1-int(1/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(1-1))/w_M36_per_finger)+(1+1-int((1+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(1-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M36_per_finger) sa=1/(1 / ((4.8e-07 + l_M36/2) + (5.4e-07 + l_M36)*(1-1)/3.5 ) )-(0.5*l_M36) sb=1/(1 / ((4.8e-07 + l_M36/2) + (5.4e-07 + l_M36)*(1-1)/3.5 ) )-(0.5*l_M36) sca=0 scb=0 scc=0 mismatchflag=1
ends driver_s1
// End of subcircuit definition.
// Library name: Buck_Simple
// Cell name: Buck_Core
// View name: schematic
subckt Buck_Core GND VCH VCL VIN VOUT
    I1 (VCL VGL VIN GND) driver_s2
    M2 (SW VGL GND GND) nch_5_mac l=l_M2 w=w_M2_per_finger*10 multi=nf_M2 nf=10 sigma=1 sd=540.0n ad=((10-int(10/2)*2)*(4.8e-07+((10-1)*5.4e-07)/2+0)+(10+1-int((10+1)/2)*2)*((10/2)*5.4e-07))*w_M2_per_finger as=((10-int(10/2)*2)*(4.8e-07+((10-1)*5.4e-07)/2+0)+(10+1-int((10+1)/2)*2)*(4.8e-07+4.8e-07+(10/2-1)*5.4e-07+0+0))*w_M2_per_finger pd=(10-int(10/2)*2)*((4.8e-07+((10-1)*5.4e-07)/2+0)*2+(10+1)*w_M2_per_finger)+(10+1-int((10+1)/2)*2)*(((10/2)*5.4e-07)*2+10*w_M2_per_finger) ps=(10-int(10/2)*2)*((4.8e-07+((10-1)*5.4e-07)/2+0)*2+(10+1)*w_M2_per_finger)+(10+1-int((10+1)/2)*2)*((4.8e-07+4.8e-07+(10/2-1)*5.4e-07+0+0)*2+(10+2)*w_M2_per_finger) nrd=(10-int(10/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(10-1))/w_M2_per_finger)+(10+1-int((10+1)/2)*2)*(2.7e-07/10/w_M2_per_finger) nrs=(10-int(10/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(10-1))/w_M2_per_finger)+(10+1-int((10+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(10-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M2_per_finger) sa=1/(1 / ((4.8e-07 + l_M2/2) + (5.4e-07 + l_M2)*(1-1)/3.5 ) )-(0.5*l_M2)  sb=1/(1 / ((4.8e-07 + l_M2/2) + (5.4e-07 + l_M2)*(1-1)/3.5 ) )-(0.5*l_M2)  sca=0 scb=0 scc=0 mismatchflag=1
    M1 (VIN VGH SW SW) nch_5_mac l=l_M1 w=w_M1_per_finger*10 multi=nf_M1 nf=10 sigma=1 sd=540.0n ad=((10-int(10/2)*2)*(4.8e-07+((10-1)*5.4e-07)/2+0)+(10+1-int((10+1)/2)*2)*((10/2)*5.4e-07))*w_M1_per_finger as=((10-int(10/2)*2)*(4.8e-07+((10-1)*5.4e-07)/2+0)+(10+1-int((10+1)/2)*2)*(4.8e-07+4.8e-07+(10/2-1)*5.4e-07+0+0))*w_M1_per_finger pd=(10-int(10/2)*2)*((4.8e-07+((10-1)*5.4e-07)/2+0)*2+(10+1)*w_M1_per_finger)+(10+1-int((10+1)/2)*2)*(((10/2)*5.4e-07)*2+10*w_M1_per_finger) ps=(10-int(10/2)*2)*((4.8e-07+((10-1)*5.4e-07)/2+0)*2+(10+1)*w_M1_per_finger)+(10+1-int((10+1)/2)*2)*((4.8e-07+4.8e-07+(10/2-1)*5.4e-07+0+0)*2+(10+2)*w_M1_per_finger) nrd=(10-int(10/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(10-1))/w_M1_per_finger)+(10+1-int((10+1)/2)*2)*(2.7e-07/10/w_M1_per_finger) nrs=(10-int(10/2)*2)*(2.7e-07*2.7e-07/(2.7e-07+2.7e-07*(10-1))/w_M1_per_finger)+(10+1-int((10+1)/2)*2)*(2.7e-07*2.7e-07*2.7e-07/(2.7e-07*2.7e-07*(10-2)+2.7e-07*(2.7e-07+2.7e-07))/w_M1_per_finger) sa=1/(1 / ((4.8e-07 + l_M1/2) + (5.4e-07 + l_M1)*(1-1)/3.5 ) )-(0.5*l_M1)  sb=1/(1 / ((4.8e-07 + l_M1/2) + (5.4e-07 + l_M1)*(1-1)/3.5 ) )-(0.5*l_M1)  sca=0 scb=0 scc=0 mismatchflag=1
    I0 (VCH_LS VGH VBST SW) driver_s1
    C1 (VBST SW) capacitor c=1n
    L0 (SW VOUT) inductor l=240.00n r=25m
    E0 (VCH_LS SW VCH GND) vcvs gain=1.0
    D2 (VIN VBST GND) sbd_dio_ga_12_3t dti=0 multi=20
ends Buck_Core
// End of subcircuit definition.
// Library name: Buck_Simple
// Cell name: tb_Efficiency
// View name: schematic
C0 (VOUT net010) capacitor c=22u
R0 (net010 GND) resistor r=4m
I11 (GND VCH VCL VIN VOUT) Buck_Core
V0 (VIN 0) vsource dc=3.3 type=dc
V1 (GND 0) vsource dc=0 type=dc
V3 (VCL 0) vsource dc=0 type=pulse val0=3.3 val1=0 period=250.00n rise=1n \
        fall=1n width=75n
V2 (VCH 0) vsource dc=0 type=pulse val0=0 val1=3.3 period=250.00n delay=3n \
        rise=1n fall=1n width=69n
I6 (VOUT GND) isource dc=ILOAD type=dc
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=60u errpreset=conservative cmin=10a write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V0:p 
saveOptions options save=allpub
